US08835428B2
(S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-4-methyl-pentanoic acid methyl ester
The title compound was prepared from 3-{4-[3-(4-fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid and (S)-2-amino-4-methyl-pentanoic acid methyl ester hydrochloride using the procedure as set forth in Example 5 and was obtained in 69.5% yield. Mass (ES+): 469 (M++1); IR (KBr): 3312 (br), 2960, 1743, 1665 (br), 1612, 1597, 1542 (br), 1508; 1H NMR (DMSO-d6) δ: 0.85, 0.90 (2×d, 6H), 1.59 (m, 2H), 1.79 (m, 1H), 3.64 (s, 3H), 4.47 (m, 1H), 7.11 (t, 1H), 7.45 (m, 2H), 7.58 (d, 2H), 7.60 (s, 1H), 7.82 (d, 2H), 8.78 (sr, 1H), 8.95 (s, 1H), 9.32 (d, 1H).

reactant | 3-{4-[3-(4-fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carboxylic acid | FC1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H12FN3O4
reactant | (S)-2-amino-4-methyl-pentanoic acid methyl ester hydrochloride | Cl.COC([C@H](CC(C)C)N)=O
reactant | KBr | [K+].[Br-]
product | (S)-2-[(3-{4-[3-(4-Fluoro-phenyl)-ureido]-phenyl}-isoxazole-5-carbonyl)-amino]-4-methyl-pentanoic acid methyl ester | 69.5% yield | COC([C@H](CC(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F)=O | C24H25FN4O5
